US05747485
To a solution of 0.104 g carbonyldiimidazole in 2 ml methylene chloride is added a solution of 0.227 g of [S-(R*,S*)]-4-((3,3-diethyl-1-((-1-(4-methylphenyl)butylamino)carbonyl)-4-oxo-2-azetidinyl)-oxy)benzoic acid in 3 ml methylene chloride. The mixture is stirred at ambient temperature for 30 minutes at which time 0.100 g of N,N-dimethylethylenediamine is added. After stirring overnight at room temperature the reaction mixture is poured into benzene (50 ml) and washed with water. The organic layer is separated, dried through sodium sulfate and concentrated in vacuo. Silica gel chromatography using 5% methanol in methylene chloride yields 0.160 g of 2-[4-[[[2-(dimethylamino)-ethyl]amino]carbonyl]phenoxy]-3,3-diethyl-N-[1-(4-methylphenyl)butyl]-4-oxo-1-azetidinecarboxamide. (Compound 73).

reactant | carbonyldiimidazole | 0.104 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-((3,3-diethyl-1-((-1-(4-methylphenyl)butylamino)carbonyl)-4-oxo-2-azetidinyl)-oxy)benzoic acid | C(C)C1(C(N(C1=O)C(=O)NC(CCC)C1=CC=C(C=C1)C)OC1=CC=C(C(=O)O)C=C1)CC | C26H32N2O5
reactant | N,N-dimethylethylenediamine | 0.100 g | CN(CCN)C | C4H12N2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-[[[2-(dimethylamino)-ethyl]amino]carbonyl]phenoxy]-3,3-diethyl-N-[1-(4-methylphenyl)butyl]-4-oxo-1-azetidinecarboxamide | 0.160 g | CN(CCNC(=O)C1=CC=C(OC2N(C(C2(CC)CC)=O)C(=O)NC(CCC)C2=CC=C(C=C2)C)C=C1)C | C30H42N4O4
